US07371503B2
9 g of dichloromethane and 1.0 g of sodium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethane sulfonate were added to 10 g of an aqueous solution of 1-(naphthalen-2-yl)tetrahydrothiopheniummethane sulfonate which was synthesized in the same manner as the sulfonium salt (A-1). The mixture was reacted while vigorously stirring for 12 hours using a magnetic stirrer. After the reaction, 10 g of dichloromethane was added. The organic layer was washed five times with 10 g of water and dried using 2 g of magnesium sulfate. The magnesium sulfate was then removed by filtration. The solvent was evaporated using a rotary evaporator to obtain 1.4 g of 1-(naphthalen-2-yl)tetrahydrothiophenium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethane sulfonate as a white solid.

reactant | sodium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethane sulfonate | 1.0 g | C12C(CC(CC1)C2)C(C(S(=O)(=O)[O-])(F)F)(F)F.[Na+]
reactant | 1-(naphthalen-2-yl)tetrahydrothiopheniummethane sulfonate | CS(=O)(=O)[O-].C1=C(C=CC2=CC=CC=C12)[S+]1CCCC1
reactant | sulfonium | [SH3+]
solvent | dichloromethane | 10 g | ClCCl | CH2Cl2
solvent | dichloromethane | 9 g | ClCCl | CH2Cl2
product | 1-(naphthalen-2-yl)tetrahydrothiophenium 2-(bicyclo[2.2.1]heptan-2-yl)-1,1,2,2-tetrafluoroethane sulfonate | 1.4 g | C12C(CC(CC1)C2)C(C(S(=O)(=O)[O-])(F)F)(F)F.C2=C(C=CC1=CC=CC=C21)[S+]2CCCC2 | InChI=1S/C14H15S.C9H12F4O3S/c1-2-6-13-11-14(8-7-12(13)5-1)15-9-3-4-10-15;10-8(11,9(12,13)17(14,15)16)7-4-5-1-2-6(7)3-5/h1-2,5-8,11H,3-4,9-10H2;5-7H,1-4H2,(H,14,15,16)/q+1;/p-1
